US04871852
In 30 ml of tert-butanol was dissolved 2 g of cis-2-fluoro-1-cyclopropanecarboxylic acid. After addition of 8 g of diphenylphosphorylazide (DPPA) and 3 g of triethylamine, the resulting mixture was heated under reflux for 8 hours. After removing the solvent, the residue was subjected to column chromatography using 50 g of silica gel, and 900 mg of 1-tert-butoxycarbonylamino-2-fluorocyclopropane was obtained from chloroform eluate. After allowing to stand, the crystals were washed with n-hexane to yield a sublimatic colorless crystals. m.p. 58°-60° C.

reactant | cis-2-fluoro-1-cyclopropanecarboxylic acid | 2 g | F[C@@H]1[C@@H](C1)C(=O)O | C4H5FO2
reactant | diphenylphosphorylazide | 8 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 3 g | C(C)N(CC)CC | C6H15N
reactant | tert-butanol | 30 ml | C(C)(C)(C)O | C4H10O
product | 1-tert-butoxycarbonylamino-2-fluorocyclopropane | 900 mg | C(C)(C)(C)OC(=O)NC1C(C1)F | C8H14FNO2
